US06121252
Synthesis of 2-[({[Benzylamino[methyl}(hydroxyphosphinyl))methyl]pentanedioic acid (15)
A solution of 1,3,5-tribenzylhexahydro-1,3,5-triazine (14.30 g, 40.0 mmol) and di-tert-butyl 2{[(tert-butoxy)phosphoryl]methyl}pentane-1,5-dioate (37.85 g, 100 mmol) in toluene (200 mL) was stirred at 110° C. for 14 hours. The solvent was removed under reduced pressure and the residual yellow oil was purified by silica gel chromatography (hexanes/ethyl acetate, 2/1) to give 23.40 g of light yellow oil (43% yield): 1H NMR (CDCl3) δ 1.40-1.48 (m, 27H), 1.7-2.1 (m, 4H), 2.2-2.4 (m, 3H), 2.6-3.0 (m, 3H), 3.8-4.0 (m, 2H), 7.2-7.4 (m, 5H).

reactant | 1,3,5-tribenzylhexahydro-1,3,5-triazine | 40.0 mmol, 14.30 g | C(C1=CC=CC=C1)N1CN(CN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H27N3
reactant | di-tert-butyl 2{[(tert-butoxy)phosphoryl]methyl}pentane-1,5-dioate | 100 mmol, 37.85 g | C(C)(C)(C)OP(=O)=CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C18H33O6P
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | {[Benzylamino[methyl}(hydroxyphosphinyl))methyl]pentanedioic acid | 23.40 g, 43% yield | C(C1=CC=CC=C1)NOP(=O)(C)CC(C(=O)O)CCC(=O)O | C14H20NO6P
